US07651639B2
To 1000 g of 5% pentafluorobenzene sulfonic acid aqueous solution stirred at room temperature, 30 g of calcium hydroxide was added. The stirring was continued while measuring the pH value. At the time when the pH value reached 6, approximately, filtration was done by using a 0.4 μm glass filter to remove the insoluble components, so as to obtain a calcium pentafluorobenzenesulfonate aqueous solution.

reactant | pentafluorobenzene sulfonic acid | 1000 g | FC1=C(C(=C(C(=C1S(=O)(=O)O)F)F)F)F | C6HF5O3S
reactant | calcium hydroxide | 30 g | [OH-].[Ca+2].[OH-]
product | calcium pentafluorobenzenesulfonate | FC1=C(C(=C(C(=C1S(=O)(=O)[O-])F)F)F)F.[Ca+2].FC1=C(C(=C(C(=C1S(=O)(=O)[O-])F)F)F)F | InChI=1S/2C6HF5O3S.Ca/c2*7-1-2(8)4(10)6(15(12,13)14)5(11)3(1)9;/h2*(H,12,13,14);/q;;+2/p-2
